US07262212B2
A mixture of 4-hydroxybenzotrifluoride (2.08 g, 12.83 mmol), 2-(2-bromoethoxy)tetrahydropyran (3 g, 14.11 mmol), potassium carbonate (1.95 g, 14.11 mmol), and sodium iodide (2 g, 13.47 mmol) in DMF (15 ml) was stirred at 100° C. for 3 hours. The reaction mixture was allowed to return to room temperature, poured into water, and extracted with ethyl acetate twice. The extract was washed with water twice and brine, and dried over magnesium sulfate. After filtration, the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane/ethyl acetate=1/1) to afford 2-[2-(4-trifluoromethylphenoxy)ethoxy]tetrahydropyran (2.47 g, yield 66%) as a colorless oil.

reactant | 4-hydroxybenzotrifluoride | 12.83 mmol, 2.08 g | OC1=CC=C(C=C1)C(F)(F)F | C7H5F3O
reactant | 2-(2-bromoethoxy)tetrahydropyran | 14.11 mmol, 3 g | BrCCOC1OCCCC1 | C7H13BrO2
reactant | potassium carbonate | 14.11 mmol, 1.95 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 13.47 mmol, 2 g | [I-].[Na+]
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-[2-(4-trifluoromethylphenoxy)ethoxy]tetrahydropyran | 2.47 g, yield 66% | FC(C1=CC=C(OCCOC2OCCCC2)C=C1)(F)F | C14H17F3O3
